US06239131B1
Preparation of 1-(2-toluoylmethyl)-2-oxo-3-amino-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-(2-Toluoylmethyl) -2-oxo-3-tert-butoxycarbonylamino-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine(l.0 g) was dissolved in 4N HCl-dioxane (10 ml), the mixture was stirred at 60° C. for one hour. The reaction mixture was concentrated under reduced pressure, neutralized with saturated aqueous sodium bicarbonate, and extracted with methylene chloride. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, to thereby obtain 0.81 g of the title compound as a light yellow crystal (Yield: 100%).

reactant | 1-(2-Toluoylmethyl) -2-oxo-3-tert-butoxycarbonylamino-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 0 g | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C2=CC=CS2)=O)NC(=O)OC(C)(C)C)=O)C | C29H31N3O5S
solvent | HCl dioxane | 4N, 10 ml | Cl.O1CCOCC1
product | 1-(2-toluoylmethyl)-2-oxo-3-amino-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 0.81 g, Yield: 100% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C2=CC=CS2)=O)N)=O)C | C24H23N3O3S
